US06271225B1
In the same manner as in Starting Material Synthesis Example 51 and using 2-amino-6-fluorobenzo[b]thiophene-3-carbonitrile (5.0 g), 3-fluoro-4-nitrotoluene (4.7 g) and dimethyl sulfoxide (55 ml), 6-fluoro-2-(5-methyl-2-nitroanilino)benzo[b]thiophene-3-carbonitrile (7.5 g) was obtained.

reactant | 2-amino-6-fluorobenzo[b]thiophene-3-carbonitrile | 5.0 g | NC1=C(C2=C(S1)C=C(C=C2)F)C#N | C9H5FN2S
reactant | 3-fluoro-4-nitrotoluene | 4.7 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
solvent | dimethyl sulfoxide | 55 ml | CS(=O)C | C2H6OS
product | 6-fluoro-2-(5-methyl-2-nitroanilino)benzo[b]thiophene-3-carbonitrile | 7.5 g | FC=1C=CC2=C(SC(=C2C#N)NC2=C(C=CC(=C2)C)[N+](=O)[O-])C1 | C16H10FN3O2S
